US04419443
10 g of phenylsuccinic anhydride was gradually added to 20 ml of 28% aqueous ammonium solution and the mixture was stirred for about 1 hour. To the reaction mixture was added aqueous hydrochloric acid solution so as to neutralize. After cooling, crystals thus formed were collected by filtration to obtain about 8.2 g of 3-phenylsuccinimide.

reactant | phenylsuccinic anhydride | 10 g | C1(=CC=CC=C1)C1C(=O)OC(C1)=O | C10H8O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium | 20 ml | [NH4+]
product | 3-phenylsuccinimide | about 8.2 g | C1(=CC=CC=C1)C1CC(=O)NC1=O | C10H9NO2
